US09227978B2
1-(4-(2-(4-chloro-5-(2-Chlorophenyl)-2-methoxyphenylamino)acetyl)piperazin-1-yl)prop-2-en-1-one
To a solution of the crude 2-(5-(2-Chlorophenyl)-4-chloro-2-methoxyphenylamino)-1-(piperazin-1-yl)ethanone (0.304 mmol) and Et3N in DCM (5 mL) at 0° C., acryloyl chloride (27.5 mg, 0.304 mmol) was slowly added and the resulting mixture was stirred at room temperature for 1 h. The mixture was quenched with saturated NaHCO3 solution and extracted with DCM. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel to afford the desired product (80 mg, 58.7% yield, 2 steps). 1H NMR (400 MHz, DMSO-d6) δ: 7.55-7.52 (m, 1H), 7.45-7.39 (m, 2H), 7.32-7.29 (m, 1H), 6.97 (s, 1H), 6.80 (dd, J=10.4, 16.4 Hz, 1H), 6.54 (s, 1H), 6.12 (dd, J=2.0, 16.8 Hz, 1H), 5.70 (dd, J=2.0, 10.4 Hz, 1H), 5.35 (bs., 1H), 3.93 (d, J=4.0 Hz, 2H), 3.89 (s, 1H), 3.55-3.49 (m, 8H). ESI-MS m/z: 448.2[M+H]+.

reactant | 2-(5-(2-Chlorophenyl)-4-chloro-2-methoxyphenylamino)-1-(piperazin-1-yl)ethanone | 0.304 mmol | ClC1=C(C=CC=C1)C=1C(=CC(=C(C1)NCC(=O)N1CCNCC1)OC)Cl | C19H21Cl2N3O2
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | acryloyl chloride | 0.304 mmol, 27.5 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(2-(4-chloro-5-(2-Chlorophenyl)-2-methoxyphenylamino)acetyl)piperazin-1-yl)prop-2-en-1-one | 80 mg, 58.7% yield | ClC1=CC(=C(C=C1C1=C(C=CC=C1)Cl)NCC(=O)N1CCN(CC1)C(C=C)=O)OC | C22H23Cl2N3O3
